Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o fistulizting Crohns disease s/p SBOs in ___ p/w
abdominal pain.

Had been in normal state of health until today, eating without
issues and exercising regularly. Pain started around 1pm today,
gradual onset over several hours, continuous to present. ___ at
worst, now ___ after morphine in ED and brief NG decompression.
Had a BM around 1:30 and then did not pass BM or gas after,
though now in the ED he passed flatus x2. Pt denies n/v, recent
diarrhea or constipation or melena/hematochezia. Denies f/c. Pt
did endorse having several recent episodes of limited pain, ~10
in the same area. No disruption in his ___ outpatient. Denies
missing doses. 

Outpatient GI reviewed and summarized as follows: 
Crohn's Hx - Crohn's ileitis with some colonic (sigmoid, cecum,
splenic flexure at least pathologically) involvement diagnosed 
in
___. H/o fistulizing disease with perianal fistula repair in
___, as of ___ on ___, continued to present. Clinical disease
has been controlled though GI notes from ___ (last time in
clinic) note that ___ still with some findings that might
warrant uptitration of therapy; pt, per the note has been
resistant to biologics, preferring to continue only ___.

No admission at ___ since ___ with diarrhea followed by
obstruction. Quick resolution without invasive intervention. Pt
maintained that admission on ___ from home and not given steroid

Recent letter to patient on ___ described MR enterography
with some narrowing without inflammation, which was planned to 
be
discussed at upcoming ___. 

In ED:
VS: afebrile HR 73, 153/102, 99% RA
Labs: wbc 11, hb 15, Cr 1.0, other BMP unremarkable, Tbili 2.1,
UA with mod blood, tr prot, 106 RBC
UCx sent
Imaging: CT a/p with dilated small bowel loops, inflammatory
strictures, SBO
Received: morphine 4 then 2 then 2 IV, Zofran 4, ___ 1g IV
Consult: GI, rec NGT, +/- steroids, if Sx worsening

On floor arrival, pt stating pain has improved with IV meds,
passing flatus x2, and with brief NG suction, though pt reports
only about 100mL were removed. Pt found NG intolerable and asked
to have it removed. Has been considering changing Crohn's 
regimen
with GI Chafeitz; has resisted but is interested now.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Crohn's with Hx perianal fistula, HTN, osteopenia, IBS
 
Social History:
___
Family History:
Sister with ___, mother ___, no family history
of premature CAD, SCD or cardiomypathies. Reviewed and found to
be not relevant to this illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: Afebrile and vital signs unremarkable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, Mild-mod TTP to LUQ.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
================
VITALS: ___ ___ Temp: 97.2 PO BP: 120/76 L Lying HR: 53 
RR:
16 O2 sat: 94% O2 delivery: Ra 
GENERAL: Alert, NAD
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, NT, non-distended, Bowel sounds present.  
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:30PM   WBC-11.0* RBC-4.73 HGB-15.6 HCT-43.4 MCV-92 
MCH-33.0* MCHC-35.9 RDW-12.5 RDWSD-41.4
___ 07:30PM   NEUTS-86.8* LYMPHS-5.4* MONOS-6.5 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-9.54* AbsLymp-0.59* AbsMono-0.71 
AbsEos-0.07 AbsBaso-0.03
___ 07:30PM   PLT COUNT-275
___ 07:30PM   GLUCOSE-105* UREA N-17 CREAT-1.0 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 07:30PM   ALT(SGPT)-27 AST(SGOT)-29 ALK PHOS-49 TOT 
BILI-2.1*
___ 07:30PM   LIPASE-24
___ 07:30PM   ALBUMIN-5.0
___ 07:36PM   LACTATE-1.2
___ 11:23PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:23PM URINE  RBC-106* WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:23PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:23PM URINE  MUCOUS-RARE*

INTERVAL RESULTS:
==================
___ 06:44AM BLOOD CRP-3.7

___ 11:23 pm URINE
**FINAL REPORT ___
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
=========
___, ___: 
Mild decreased vascularity and few patches of erythema were 
noted
in the sigmoid colon. A dye sublimation chromoscopy using
methylene blue was performed. Chromoendoscopy was performed
throughout the colon. The mucosa was carefully inspected for any
irregularities and/or dysplastic changes. Multiple cold forceps
biopsies were performed for histology in the ascending,
transverse, descending, sigmoid and rectum.

MR enterography ___
1. Mild chronic inflammation involving an approximately 10 cm
segment of proximal/mid ileum, improved from ___. 
2. Interval development of focal ileal strictures measuring 1-2
cm each, with the intervening 12 cm segment of small bowel
demonstrating moderate dilation and slight pseudosacculation. 
3. No fistulas or abdominopelvic fluid collection. 

CT a/p on ___:
1. Fecalized and dilated small bowel loops in an area of 
multiple
inflammatory strictures, with mucosal hyperemia and mesenteric
edema, consistent with acute on chronic inflammatory changes 
with
associated small bowel obstruction.
2. No additional acute process within the abdomen pelvis.

 
Brief Hospital Course:
___ PMHx fistulizing Crohns disease s/p SBOs in ___, HTN who 
p/w abdominal pain, found to have recurrent small bowel 
obstruction.

#SBO
- Etiology: chronic stricturing disease in setting of Crohn's
- He had a mild reactive leukocytosis w/o other evidence of 
bacterial infection
- CRP low arguing against active flare
- Treated with NG decompression and bowel rest
- Improved with conservative management
- Gastroenterology consulted - patient will follow-up with Dr. 
___ in clinic to discuss starting Humira
- Hepatitis serologies and Quantiferon Tb testing sent and 
pending at the time of discharge

#Hyperbilirubinemia: 
- Patient has a hx of mild bilirubin elevation, usually indirect
- Per GI notes, this is attributed to his ___
- Stable at his baseline this admission

#Hematuria
- Unclear etiology, ucx without infection
- Patient reports that this is chronic.  He has had cystoscopy 
and work-up that was unrevealing as outpatient.  
- Follow-up with PCP
 
#HTN: Continued Valsartan 80 mg daily, held HCTZ in setting of 
poor PO intake.  Patient will check his pressures at home and 
call his PCP if SBP > 130.

TRANSITIONAL ISSUES:
====================
[] Follow-up pending quantiferon TB test and hepatitis 
serologies
[] Restart HCTZ as able
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO DAILY 
2. Mercaptopurine 50 mg PO QHS 
3. Bifidobacterium infantis 4 mg oral DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Bifidobacterium infantis 4 mg oral DAILY  
2.  Cyanocobalamin 1000 mcg PO DAILY  
3.  Mercaptopurine 50 mg PO QHS  
4.  Valsartan 80 mg PO DAILY  
5. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until seen by your 
primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction
Ileal strictures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with abdominal pain.  You were found to 
have a small bowel obstruction on CT scan of the abdomen.  Your 
symptoms improved with bowel rest.  You were seen by the 
Gastroenterology team in consult.  You will follow-up with your 
Gastroenterologist for further treatment after discharge.

You are at increased risk for having small bowel obstructions 
due to your underlying Crohn's disease.  If you experience any 
further episodes of abdominal pain, nausea, vomiting, not 
passing gas or having bowel movements, please call your doctor 
or return to the Emergency room for further evaluation.

While you were in the hospital, your blood pressure medication 
called hydrochlorothiazide (HCTZ) was held.  Please do not 
restart these medications until you are seen by your primary 
care doctor.

It was a pleasure taking care of you at ___.  Have a Happy New 
Year!

--Your ___ Team
 
Followup Instructions:
___